US07812018B2
To a solution of 1,3-dihydro-2H-indol-2-one (ii-a, 25.0 g, 189 mmol) in CHCl3 (150 mL) was added N,N-dimethylformamide dimethyl acetal (29.2 mL, 209 mmol) and the reaction was heated at 70° C. under an atmosphere of argon. After 4.5 h, the reaction was cooled to RT and was concentrated. The resulting solid was triturated with ether and filtered to give (3Z)-3-[(dimethylamino)methylene]-1,3-dihydro-2H-indol-2-one as a yellow solid (iii-a, 33.0 g, 93%). NH4OAc QC conditions. DAD Retention Time =1.19 min. M+H=189.

reactant | 1,3-dihydro-2H-indol-2-one | 189 mmol, 25.0 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | N,N-dimethylformamide dimethyl acetal | 209 mmol, 29.2 mL | COC(N(C)C)OC | C5H13NO2
solvent | CHCl3 | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | (3Z)-3-[(dimethylamino)methylene]-1,3-dihydro-2H-indol-2-one | CN(C)\C=C\1/C(NC2=CC=CC=C12)=O | C11H12N2O
